US04071531
DL-α-Amino-(5,6-dihydro-1,4-oxathiin-2-yl)-acetic acid (25.4 g.) is suspended in dimethylformamide (435 cc.); tert.-butoxycarbonyl azide (41.5 g.) and triethylamine (51 cc.) are added. The reagents are left in contact for 48 hours whilst stirring at a temperature of 35° C. The solution is concentrated under reduced pressure (1 mm Hg), the residue is taken up in water (300 cc.), and the pH is adjusted to 8.5 by adding a saturated sodium bicarbonate solution. The aqueous phase is extracted twice with ethyl ether (a total of 500 cc.) which is discarded, and is then acidified to pH = 3 by adding 4 N hydrochloric acid A product precipitates, which is filtered off and then dissolved in methylene chloride (600 cc.). The solution obtained is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg). DL-α-Tert.-butoxycarbonylamino-(5,6-dihydro-1,4-oxathiin-2-yl)-acetic acid (26.2 g.), melting at 160° C is thus obtained.

reactant | α-Amino-(5,6-dihydro-1,4-oxathiin-2-yl)-acetic acid | 25.4 g | NC(C(=O)O)C=1OCCSC1 | C6H9NO3S
reactant | tert.-butoxycarbonyl azide | 41.5 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | triethylamine | 51 cc | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 435 cc | CN(C=O)C | C3H7NO
product | α-Tert.-butoxycarbonylamino-(5,6-dihydro-1,4-oxathiin-2-yl)-acetic acid | 26.2 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C=1OCCSC1 | C11H17NO5S
